US04871389
The preparation of 4-(2,4-dichlorophenyl)-4-hydroxy-5-(1,2,4-triazol-1-yl)-hex-2-yne
A suspension of sodium hydride (2.54 g) in dry dimethylsulphonyl (200 ml) was stirred at room temperature under argon and 1,2,4-triazol 21.9 g) was added in portions over 10 minutes, followed by further stirring for 10 minutes. A solution of 5-bromo-4-(2,4-dichlorophenyl)-4-hydroxy-hex-2-yne (17 g) in dry DMSO (50 ml) was added over 15 minutes. The resultant solution was heated at 100° C. for about 100 hours. Concentrated brine solution (200 ml) was added and the mixture extracted with ethyl acetate (3×150 ml). The extracts were combined, washed with water until neutral, dried over anhydrous magnesium sulphate and the solvent removed in vacuo to give 14.38 g of a brown solid. This solid was purified by flash chromatography, eluted with portions of ethyl acetate (50-100%) in hexane). Fractions containing the fastest running major triazole-active spot on thin-layer chromatography were combined to give 2.91 g (18%) of a white solid.

reactant | sodium hydride | 2.54 g | [H-].[Na+]
reactant | 1,2,4-triazol | 21.9 g | N1N=CN=C1 | C2H3N3
reactant | 5-bromo-4-(2,4-dichlorophenyl)-4-hydroxy-hex-2-yne | 17 g | BrC(C(C#CC)(O)C1=C(C=C(C=C1)Cl)Cl)C | C12H11BrCl2O
solvent | DMSO | 50 ml | CS(=O)C | C2H6OS
solvent | brine | 200 ml | [Cl-].[Na+].O
product | 4-(2,4-dichlorophenyl)-4-hydroxy-5-(1,2,4-triazol-1-yl)-hex-2-yne | 14.38 g | ClC1=C(C=CC(=C1)Cl)C(C#CC)(C(C)N1N=CN=C1)O | C14H13Cl2N3O
